US07037929B1
Preparation of 2-[3-(3-chloropropoxy)phenyl]acetic acid
A mixture of methyl 2-[3-(3-chloropropoxy)phenyl]acetate (4.95 g, 0.02 moles) and a solution of 1N sodium hydroxide (0.02 moles) was stirred at room temperature for 24 hours. After acidification the acid separated as white powder (4.53 g, 97% yield)

reactant | methyl 2-[3-(3-chloropropoxy)phenyl]acetate | 0.02 moles, 4.95 g | ClCCCOC=1C=C(C=CC1)CC(=O)OC | C12H15ClO3
reactant | sodium hydroxide | 0.02 moles, 1N | [OH-].[Na+]
product | 2-[3-(3-chloropropoxy)phenyl]acetic acid | 4.53 g, 97% yield | ClCCCOC=1C=C(C=CC1)CC(=O)O | C11H13ClO3
